US07026478B2
A flame-dried two-necked flask is charged under argon with 4-(trifluoromethylsulfonyloxy)benzoic acid methyl ester (760 mg, 2.66 mmol), Fe(acac)3 (47 mg, 0.13 mmol), THF (30 mL) and N-methylpyrrolidone (NMP, 1.7 mL). A solution of n-hexylmagnesium bromide (2M in Et2O, 1.7 mL, 3.4 mmol) is added via syringe to the resulting red solution, causing an immediate color change to dark brown and finally to violet. The resulting mixture is stirred for 5 min, the reaction is diluted with Et2O and is carefully quenched upon addition of aq. HCl (1M, ca. 10 mL). Work-up followed by flash chromatography of the crude product as described above provides 4-hexylbenzoic acid methyl ester as a colorless syrup (540 mg, 93%). The spectroscopic and analytical data are identical to those compiled above.

reactant | 4-(trifluoromethylsulfonyloxy)benzoic acid methyl ester | 2.66 mmol, 760 mg | COC(C1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F)=O | C9H7F3O5S
reactant | THF | 30 mL | C1CCOC1 | C4H8O
reactant | N-methylpyrrolidone | 1.7 mL | CN1C(CCC1)=O | C5H9NO
reactant | n-hexylmagnesium bromide | 3.4 mmol, 2M, 1.7 mL | C(CCCCC)[Mg]Br
solvent | Et2O | CCOCC | C4H10O
product | 4-hexylbenzoic acid methyl ester | 540 mg, 93% | COC(C1=CC=C(C=C1)CCCCCC)=O | C14H20O2
